### PR TITLE
feat(Topology/Metrizable): generalize compact separability

### PR DESCRIPTION
**Pull request by yuanyi-350**
migrate from #42470

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/Basic.lean [hunk 1]
```diff
@@ -223,14 +224,9 @@ theorem subset_countable_closure_of_almost_dense_set (s : Set α)
...
 
--- TODO: generalize to metrizable spaces
-/-- A compact set in a pseudo emetric space is separable, i.e., it is a subset of the closure of a
-countable set. -/
-theorem subset_countable_closure_of_compact {s : Set γ} (hs : IsCompact s) :
-    ∃ t, t ⊆ s ∧ t.Countable ∧ s ⊆ closure t := by
-  refine subset_countable_closure_of_almost_dense_set s fun ε hε => ?_
-  rcases totallyBounded_iff'.1 hs.totallyBounded ε hε with ⟨t, -, htf, hst⟩
-  exact ⟨t, htf.countable, hst.trans <| iUnion₂_mono fun _ _ => eball_subset_closedEBall⟩
+@[deprecated TopologicalSpace.subset_countable_closure_of_compact (since := "2026-08-06")]
```
Comment (themathqueen) [inline Mathlib/Topology/EMetricSpace/Basic.lean:227]: no need for this since it's an alias
```suggestion
@[deprecated (since := "2026-08-06")]
```

File: Mathlib/Topology/Metrizable/Basic.lean [hunk 2]
```diff
@@ -209,4 +209,13 @@ instance (priority := 100) DiscreteTopology.metrizableSpace [DiscreteTopology X]
   exists_countably_generated :=
     ⟨⊥, DiscreteTopology.eq_bot.symm, Filter.isCountablyGenerated_principal SetRel.id⟩
 
+/-- A compact set in a pseudo metrizable space is separable, i.e., it is a subset of the closure of
+a countable set. -/
+theorem subset_countable_closure_of_compact {X : Type*} [TopologicalSpace X]
```
Comment (themathqueen) [inline Mathlib/Topology/Metrizable/Basic.lean:214]: maybe this name should change? maybe something like `exists_subset_...`?
